US04735959
3-[4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-phenyl]-propionic acid
Five milliliters of 1N sodium hydroxide solution were added to a solution of 0.85 gm (1.7 m mol) of 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzyl malonic acid diethyl ester in 18 ml of ethanol. After stirring for two hours at 50° C., the mixture was evaporated in vacuo, and water and 5 ml of 1N hydrochloric acid were added. The precipitate formed was filtered off, dried in vacuo, and heated for 30 minutes up to 120° C., whereby carbon dioxide was split off. The product obtained was purified by column chromatography on silica gel (chloroform/methanol=20:1).

reactant | sodium hydroxide | 1N, Five milliliters | [OH-].[Na+]
reactant | 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzyl malonic acid diethyl ester | 0.85 gm | C(C)OC(C(C(=O)OCC)CC1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C29H38N2O5
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 3-[4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-phenyl]-propionic acid | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C=C1)CCC(=O)O)C(=O)N | C24H30N2O3
